US08247436B2
3-Amino-6-(4-fluoro-phenyl)-5-trifluoromethyl-pyridine-2-carboxylic acid ((S)-3,3,3-trifluoro-2-hydroxy-2-methyl-propyl)-amide
A mixture comprising 3-amino-6-bromo-5-trifluoromethyl-pyridine-2-carboxylic acid ((S)-3,3,3-trifluoro-2-hydroxy-2-methyl-propyl)-amide (Ex. 3)(100 mg, 0.244 mmol), 4-fluorophenylboronic acid (37.5 mg, 0.268 mmol) and 1,1′ bis(diphenylphosphoshio)ferrocenepalladium dichloride (19.90 mg, 0.024 mmol) was suspended in THF (2 ml) and 1M Cs2CO3 (0.667 ml). The vial was flushed with N2, sealed and heated at 160° C. using microwave radiation for 15 minutes. The mixture was partitioned between EtOAc (50 ml) and water (50 ml). The organic portion was separated and washed with brine (30 ml), dried (MgSO4), filtered through Celite® (filter material) and concentrated in vacuo. The crude residue was dissolved in DMSO (2 ml) and purified by mass directed LCMS using MeCN/Water/0.1% TFA eluent to afford clean product. The product fraction obtained as MeCN/Water/0.1% TFA solution was poured into EtOAc (50 ml) and washed with saturated NaHCO3 (50 ml) to free base the product. The organic portion were combined, dried (MgSO4) and concentrated in vacuo to afford the title compound as a pale orange crystalline solid; 1H NMR (400 MHz, DMSO-d6) δ 8.4 (1H, m), 7.7 (1H, s), 7.49 (2H, m), 7.29 (2H, t), 7.2 (2H, br s), 6.22 (1H, s), 3.68 (1H, m), 3.44 (1H, m), 1.22 (3H, s); LC-MS Rt 4.41 mins[M+H]+ 426 (Method 10minLC_v003).

reactant | 3-amino-6-bromo-5-trifluoromethyl-pyridine-2-carboxylic acid ((S)-3,3,3-trifluoro-2-hydroxy-2-methyl-propyl)-amide | 0.244 mmol, 100 mg | FC([C@@](CNC(=O)C1=NC(=C(C=C1N)C(F)(F)F)Br)(C)O)(F)F | C11H10BrF6N3O2
reactant | 4-fluorophenylboronic acid | 0.268 mmol, 37.5 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | MeCN Water | CC#N.O
reactant | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | Cs2CO3 | 1M, 0.667 ml | C(=O)([O-])[O-].[Cs+].[Cs+]
product | 3-Amino-6-(4-fluoro-phenyl)-5-trifluoromethyl-pyridine-2-carboxylic acid ((S)-3,3,3-trifluoro-2-hydroxy-2-methyl-propyl)-amide | FC([C@@](CNC(=O)C1=NC(=C(C=C1N)C(F)(F)F)C1=CC=C(C=C1)F)(C)O)(F)F | C17H14F7N3O2
